US07202221B2
and 7-[(2-tertbutoxycarbonylaminoethyl)amino]-1-cyclopropyl-1,4-dihydro-6-fluoro-4-oxo-quinoline-3-carboxylic acid (16)
In a sealed tube N-(tert-butoxycarbonyl)ethylenediamine (5 mL) was added to a solution of 7-chloro-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (3 g) in DMSO (6 mL). The reaction mixture was stirred at 110° C. for 15 h. The reaction mixture was allowed to cool at 50° C. and was poured into ice, acetic acid was added to reach pH=5. A precipitate appeared and was separated by filtration and washed with ether to afford a 40:60 mixture of title compounds (4.4 g).

reactant | N-(tert-butoxycarbonyl)ethylenediamine | 5 mL | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
reactant | 7-chloro-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 3 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | 7-[(2-tertbutoxycarbonylaminoethyl)amino]-1-cyclopropyl-1,4-dihydro-6-fluoro-4-oxo-quinoline-3-carboxylic acid | C(C)(C)(C)OC(=O)NCCNC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C20H24FN3O5
